US06288051B1
e) 7α-(5-Acetoxypentyl)-estra-1,3,5(10)-triene-3,17β-diol
6.0 g of 7α-(5-acetoxypentyl)-3-hydroxy-estra-1,3,5(10)-trien-17-one is dissolved in 65 ml of tetrahydrofuran, and 2 ml of water and 0.6 g of fine sodium borohydride are added at room temperature. After 1 hour of stirring at room temperature, the reaction mixture is added to ice water, extracted three times with ethyl acetate, and the organic phase is washed with sodium chloride solution, dried with sodium sulfate and concentrated by evaporation in a vacuum, raw yield 6.07 g.

reactant | 7α-(5-acetoxypentyl)-3-hydroxy-estra-1,3,5(10)-trien-17-one | 6.0 g | C(C)(=O)OCCCCC[C@H]1[C@H]2[C@@H]3CCC([C@@]3(C)CC[C@@H]2C=2C=CC(=CC2C1)O)=O | C25H34O4
reactant | water | 2 ml | O | H2O
reactant | sodium borohydride | 0.6 g | [BH4-].[Na+]
solvent | tetrahydrofuran | 65 ml | O1CCCC1 | C4H8O
product | 7α-(5-Acetoxypentyl)-estra-1,3,5(10)-triene-3,17β-diol | C(C)(=O)OCCCCC[C@H]1[C@H]2[C@@H]3CC[C@@H]([C@@]3(C)CC[C@@H]2C=2C=CC(=CC2C1)O)O | C25H36O4
